US05847155
3-(2-Benzoylbenzoyl)-4-thiazolidinemethanol
1.9 g (8.4 mmol) of o-benzoylbenzoic acid and 1.13 g (8.4 mmol) of 1-hydroxybenzotriazole hydrate were combined in 50 ml of methylene chloride and stirred for 20 minutes at room temperature. 1.0 g (8.4 mmol) of 4-thiazolidinemethanol was added, followed by 1.6 g (8.4 mmol) of ethyl-3-(3-dimethylaminopropyl)carbodiimide. The reaction mixture was stirred for 18 hours at room temperature and washed with water, first at pH 2.5 and then at pH 9.5. The organic phase was dried and evaporated to give a foam which was chromatographed on silica gel using 1:1/chloroform:ethyl acetate as the eluant to yield 1.1 g (40%) of the title compound. 1H NMR (CDCl3) δ: 7.4-7.85(m,9H); 4.65(m,1H) ; 4.20-4.40(m,2H); 3.96(m,1H); 3.60-3.70(m,2H); 3.0-3.30(m,2H). High Resolution Mass Spectrum: m/e=328.1015±0.8 ppm (calculated for C18H18NO3S).

reactant | o-benzoylbenzoic acid | 8.4 mmol, 1.9 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=CC=C1 | C14H10O3
reactant | 1-hydroxybenzotriazole hydrate | 8.4 mmol, 1.13 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-thiazolidinemethanol | 8.4 mmol, 1.0 g | S1CNC(C1)CO | C4H9NOS
reactant | ethyl-3-(3-dimethylaminopropyl)carbodiimide | 8.4 mmol, 1.6 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Benzoylbenzoyl)-4-thiazolidinemethanol | 1.1 g, 40% | C(C1=CC=CC=C1)(=O)C1=C(C(=O)N2CSCC2CO)C=CC=C1 | C18H17NO3S
